US03954757
A solution of 19.65 g of 2-methylindole in 250 ml of methanol is added to a well-stirred solution of 75 g of potassium iodide and 38 g of iodine in 225 ml of water at room temperature. This mixture is further treated with a solution of 17.4 g of 1,4,5,6-tetrahydro-2-pyrimidinethiol in 350 ml of warm methanol, stirred for 2 hours and worked up in the manner described under Example 1 to yield 2-methyl-3-(1,4,5,6-tetrahydro-2-pyrimidinylthio)-indole hydriodide which melts at 242° after recrystallization from a mixture of methanol and ethyl acetate.

reactant | 2-methylindole | 19.65 g | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | potassium iodide | 75 g | [I-].[K+]
reactant | iodine | 38 g | II | I2
reactant | 1,4,5,6-tetrahydro-2-pyrimidinethiol | 17.4 g | N1C(=NCCC1)S | C4H8N2S
solvent | methanol | 250 ml | CO | CH4O
solvent | water | 225 ml | O | H2O
solvent | methanol | 350 ml | CO | CH4O
product | 2-methyl-3-(1,4,5,6-tetrahydro-2-pyrimidinylthio)-indole hydriodide | I.CC=1NC2=CC=CC=C2C1SC=1NCCCN1 | InChI=1S/C13H15N3S.HI/c1-9-12(17-13-14-7-4-8-15-13)10-5-2-3-6-11(10)16-9;/h2-3,5-6,16H,4,7-8H2,1H3,(H,14,15);1H
